US06906193B2
[2-(3-fluorophenyl)-4-quinolinyl]-N,N-dimethylamine
N-[6-bromo-2-(3-fluorophenyl)-4-quinolinyl]-N,N-dimethylamine (2.5 g, 7.55 mmoles) and 300 mg of a catalyst consisting of 5% palladium on a calcium carbonate support in 200 mL of ethanol was placed under a hydrogen atmosphere at 50 psi and shaken for 48 hrs. At the end of this time the atmosphere was replaced by nitrogen and the mixture concentrated. Solids containing insoluble quinoline hydrobromide salts were washed with ethyl acetate and 5% sodium hydroxide solution and residual solids removed by filtration. Filtrates were combined, the layers were separated, and the organic layer was recovered, dried over Na2SO4, filtered and concentrated. The extracted material was recrystallized from methylene chloride and hexane to provide 700 mg (37%) of the title compound.

reactant | N-[6-bromo-2-(3-fluorophenyl)-4-quinolinyl]-N,N-dimethylamine | 7.55 mmoles, 2.5 g | BrC=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)N(C)C | C17H14BrFN2
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | [2-(3-fluorophenyl)-4-quinolinyl]-N,N-dimethylamine | 700 mg, 37% | FC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=C1)N(C)C | C17H15FN2
